*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
* Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA836
* Ultra VERY LOW-POWER, RAIL-TO-RAIL OUT, NEGATIVE RAIL IN, VFB OP AMP 
* Date: 2011-08-12
* Model Type: PSpice
* Simulator: PSpice 16.0.0.p001
* Datasheet: SLOS712B - January 2011 - Revised May 2011
*
* Model Version: 1.1
*
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web - Encrypted Netlist (2011-03-01)
* Version 1.1 : Unencrypted Netlist without Any Change (2011-08-12)
* 
*****************************************************************************
* The OPA836 Macro Model represents the following parameters:
* AC small-signal response, input-referred voltage noise, the quiescent and PD
* currents, output swing, input offset voltage, input bias current, PSRR and CMRR
* SR is closed to the measured value only at G=2, Vout=2Vpp
* 
* The SR remains constant for any output amplitude or gain setting
*****************************************************************************
*
*$
.SUBCKT OPA836 INP INN VCC  VEE OUT PD
Egnd          GND_FLOAT 0 POLY(2) VCC 0 VEE 0  0  0.5  0.5
E_E1          VCC_BUF GND_FLOAT VCC GND_FLOAT 1
E_E2          VEE_BUF GND_FLOAT VEE GND_FLOAT 1
R_Rinp        INP INP1  1  
R_Rinn        INN INN1  1  
V_Vos         INP2 INP_CMRR 10uVdc
C_Cinp        GND_FLOAT INP1  200f   
C_Cinn        GND_FLOAT INN1  200f   
X_U12         INP1 INP2 vnse 
*
*
X_Upsrr       N02795 GND_FLOAT INN1 INN2   VCVS_LIMIT  PARAMS: 
+             GAIN=-1 VPOS=20M  VNEG=-20M
*
G_G2          GND_FLOAT N02795 VCC VEE 692n
R_Rpsr        N02795  N027510    1  
L_Lpsr        N027510 GND_FLOAT  2uH  
E_Ecmrr       INN2 INN3 N01819 GND_FLOAT 1
G_G1          GND_FLOAT N01819 INP_CMRR GND_FLOAT 468n
R_Rcmr        N01819  N013640    1  
L_Lcmr        N013640 GND_FLOAT  560nH  
X_U9          VCC VEE PD VIMON GND_FLOAT INP2 INN1 HPA_PD_I  PARAMS: 
+             VTH=1.4 IMAX=1e-3 IMIN=3N IIBP=0.55U IIBN=0.55U
*
V_V1          VCC      N08751   2.09Vdc
V_V4          N08964   VEE      0.74Vdc
X_Ud1         INP_CMRR N08751   D_ideal
X_Ud2         INN3     N08751   D_ideal
X_Ud3         N08964   INP_CMRR D_ideal
X_Ud4         N08964   INN3     D_ideal
*
*
X_Ug0         INP_CMRR INN3 GND_FLOAT N13447 VCCS_LIMIT PARAMS: 
+             GAIN=100e-6  IPOS=0.5 INEG=-0.5
*
X_Ug4         N13447  GND_FLOAT GND_FLOAT OVER_CLAMP VCCS_LIMIT PARAMS:  
+             GAIN=1.48E-3 IPOS=0.1 INEG=-0.105
*X_U4          INP INN GND_FLOAT N13447 GND_FLOAT GND_FLOAT OVER_CLAMP Dyn_SR
*+  PARAMS: GAIN=3E-3 IDEFAULT=0.27 VOS=13U
*
*
X_U1          GND_FLOAT  N13447    RNOISELESS PARAMS: R=1e6
X_U2          OVER_CLAMP GND_FLOAT RNOISELESS PARAMS: R=7.2e6
X_U3          VSENSE     GND_FLOAT RNOISELESS PARAMS: R=1e6
X_U5          GND_FLOAT  P0Z       RNOISELESS PARAMS: R=1e6
X_U6          P0ZP1      GND_FLOAT RNOISELESS PARAMS: R=1e6
X_U7          CLAW_CLAMP GND_FLOAT RNOISELESS PARAMS: R=1e3
X_U8          CL_CLAMP   GND_FLOAT RNOISELESS PARAMS: R=1e3
*
G_G3          GND_FLOAT  VSENSE     OVER_CLAMP GND_FLOAT 1u
G_G4          GND_FLOAT  P0Z        VSENSE     GND_FLOAT 1u
G_G5          GND_FLOAT  P0ZP1      P0Z        GND_FLOAT 1u
G_G6          GND_FLOAT  CLAW_CLAMP P0ZP1      GND_FLOAT 1m
G_G7          GND_FLOAT  CL_CLAMP   CLAW_CLAMP GND_FLOAT 1m
*
C_Cc          OVER_CLAMP GND_FLOAT  178.3p   
C_Cc1         P0ZP1      GND_FLOAT  0.548f   
C_Cc2         CLAW_CLAMP GND_FLOAT  137f     
C_Cc3         GND_FLOAT  GND_FLOAT  4.1f     
R_R2          GND_FLOAT  N107583    1G       
R_R3          GND_FLOAT  N127440    1G       
X_U10         CL_CLAMP   GND_FLOAT PD N118253 GND_FLOAT VCC VEE HPA_PD_SGNL PARAMS: 
+             GAIN=1
Ethd          VCLP GND_FLOAT POLY(1) N118253 GND_FLOAT 0  1  0 0
*
*
*** Output Impedance
R_Uz_Rg1      GND_FLOAT Uz_N36964  10e6  
R_Uz_Rf1      Uz_N36964 Uz_VZO_1   10e6  
R_Uz_Rg2      Uz_VZO_2  Uz_N37614  1e6   
R_Uz_Rf2      Uz_N37614 Uz_VZO_3   1e6   
X_Uz_Uamp1    VCLP Uz_N36964 Uz_VZO_1 GND_FLOAT VCVS_LIMIT 
+             PARAMS:  GAIN=1e6 VPOS=6e4 VNEG=-6e4
X_Uz_Uamp2    GND_FLOAT Uz_N37614 Uz_VZO_3 GND_FLOAT VCVS_LIMIT
+             PARAMS:GAIN=1e6 VPOS=6e4 VNEG=-6e4
E_Uz_E1       Uz_VZO_2 GND_FLOAT Uz_VZO_1 Uz_VZO_4 -1
X_Uz_S1       N107583 GND_FLOAT Uz_N45387 Uz_VZO_3 Zout_Uz_S1 
X_Uz_S2       N107583 GND_FLOAT Uz_N45507 Uz_VZO_3 Zout_Uz_S2 
R_Uz_Ra       Uz_N45387 Uz_VZO_4  10  
R_Uz_Rb       Uz_N45507 Uz_VZO_4  10  
R_Uz_Rm       Uz_VZO_3  Uz_VZO_4  10  
X_Uz_H1       Uz_VZO_4 N105089 VIMON GND_FLOAT Zout_Uz_H1 
*** End of Output Impedance
*
*
X_U11         VCC VEE PD N105089 OUT GND_FLOAT dyn_curr
*
*
*** Output Voltage Clamp
V_Uvcl_Vclo1  VCC_BUF Uvcl_N498511 0.94Vdc
V_Uvcl_Vclo2  Uvcl_N50894 VEE_BUF  0.94Vdc
X_Uvcl_Uclo2  Uvcl_N50894 OVER_CLAMP  D_ideal 
X_Uvcl_Uclo1  OVER_CLAMP Uvcl_N498511 D_ideal 
*** End of Output Voltage Clamp
*
*** Current Limit
X_Ucl_Ucl1    Ucl_N50037 Ucl_N01131 D_ideal 
X_Ucl_Ucl2    Ucl_N01226 Ucl_N50037 D_ideal 
R_Ucl_Rcl1    Ucl_N01131 N127440     1    
R_Ucl_Rcl2    N127440    Ucl_N01226  1    
R_Ucl_Rcl3    Ucl_N50037 CL_CLAMP   0.01  
C_Ucl_Ccl1    Ucl_N01131 GND_FLOAT   1p   
C_Ucl_Ccl2    GND_FLOAT  Ucl_N01226  1p   
V_Ucl_Vclp    Ucl_N00774 GND_FLOAT  45Vdc
V_Ucl_Vcln    Ucl_N00760 GND_FLOAT -45Vdc
E_Ucl_E1      Ucl_N01131 GND_FLOAT Ucl_N00774 VIMON 100
E_Ucl_E2      Ucl_N01226 GND_FLOAT Ucl_N00760 VIMON 100
*** End of Current Limit
*
.ends OPA836
*
*
*$
.subckt Zout_Uz_S2 1 2 3 4  
S_Uz_S2       3 4 1 2 _Uz_S2
RS_Uz_S2      1 2 1G
.MODEL       _Uz_S2 VSWITCH Roff=10e6 Ron=1.0 Voff=0.1V Von=-0.1V
.ends Zout_Uz_S2
*$
*
.subckt Zout_Uz_S1 1 2 3 4  
S_Uz_S1      3 4 1 2 _Uz_S1
RS_Uz_S1     1 2 1G
.MODEL      _Uz_S1 VSWITCH Roff=10e6 Ron=1.0 Voff=-0.1V Von=0.1V
.ends Zout_Uz_S1
*$
*
.subckt Zout_Uz_H1 1 2 3 4  
H_Uz_H1       3 4 VH_Uz_H1 1e3
VH_Uz_H1      1 2 0V
.ends Zout_Uz_H1
*$
*
.subckt D_ideal a c
d1 a c dnom
.model dnom d
+ tt=1e-011
+ cjo=1e-018
+ is=1e-016
+ rs=0.001
.ends D_ideal
*$
*
.SUBCKT VNSE 1 2 
**************************
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* NLF - NV/RHZ AT (1/F) FREQ
* FLW - FREQ FOR (1/F) VAL
* NVR - NV/RHZ FLATBAND
**************************
* START CALC VALS
.PARAM NLF=45
.PARAM FLW=4 
.PARAM NVR=4.7
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE NANOV/RT-HZ*$
*
*$
* 
.SUBCKT FEMT 1 2 PARAMS: NLFF=25e3 FLWF=260 NVRF=3530
**************************
* BEGIN SETUP OF NOISE GEN - FEMPTOAMPS/RT-HZ
* INPUT THREE VARIABLES
* NLFF - SET UP INSE 1/F
* FLWF - FA/RHZ AT 1/F FREQ
* NVRF - FA/RHZ FLATBAND
**************************
* START CALC VALS
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS FEMT
*$

.subckt rnoiseless a b PARAMS: R=1k
*H_H1 c b VH_H1 {R}
*VH_H1 a c 0
ERES a 3 VALUE = { I(VSENSE) * R }
Rdummy 30 3 1
VSENSE 30 b DC 0V
.ends
*$
*
*
*Voltage Controlled Source with Limits
.subckt VCCS_Limit VCP VCN IOUTP IOUTN PARAMS: Gain = 1.7e-3
+ Ipos = 0.100 Ineg = -0.165
G1 IOUTP IOUTN VALUE={LIMIT(Gain*V(VCP,VCN),Ipos,Ineg)}
.ends VCCS_Limit
*$
*
.subckt VCVS_Limit VCP VCN VOUTP VOUTN PARAMS: Gain = -1
+ Vpos = 20m Vneg = -20m
E1 VOUTP VOUTN VALUE={LIMIT(Gain*V(VCP,VCN),Vpos,Vneg)}
.ends VCVS_Limit
*$
*$
.SUBCKT HPA_PD_I VCC VEE PD Vimon AGND Ninp Ninn PARAMS: Vth = 1.4 Imax = 1e-3  Imin = 3n 
+       IIBP= 0.55u  IIBN= 0.56u
*GBIAS    VCC  VEE    VALUE = {IF(V(PD)   >= (V(VEE)+Vth),Imax,Imin)}
GBIAS     VCC  VEE    VALUE = {IF(V(PD)   >= V(VCC),Imax,Imin)}
Ebuf      VDD  0      VCC  0   1
Ginp      VDD  Ninp   VALUE = {IF(V(PD)   >= V(VCC),IIBP,0)}
Ginn      VDD  Ninn   VALUE = {IF(V(PD)   >= V(VCC),IIBN,0)}
.ENDS
*$
.SUBCKT HPA_PD_Sgnl  CP  CN  DIS  VP  VN  VCC VEE PARAMS:  GAIN = 1
EVCVS  VP  VN  VALUE = {IF(V(DIS,VEE) >= 1.4,V(CP,CN)*GAIN,0)}
.ENDS HPA_PD_Sgnl
*$
*$
.SUBCKT Dyn_Curr VCC VEE PD NS1 NS2 AGND 
VRO1      NS1   NS2  0
DPASSTOP  VCC   NET1  Ddefault    1
DBLOCKTOP AGND  NET1  Ddefault    1
FGTOP     NET1  AGND  VRO1  1
FBOTT     NET2  AGND  VRO1  1
DBLOCKB   NET2  AGND  Ddefault    1
DPASSB    NET2  VEE   Ddefault    1
*SW2    NS4 VEE  PD  0  VSWITCH_1
.MODEL Ddefault D IS=8.000E-16   RS=5  BV=6
.ENDS
*$
*$
.SUBCKT Dyn_SR INP INN AGND VCP VCN IOUTP IOUTN PARAMS: Gain = 1.7e-3
+ Idefault=0.1 Vos=50e-6  Factor1=1
* For inverting configuration
*Gt1 N1  0  VALUE={ IF( ABS(V(INP,INN)) <= Vos, Idefault, 0 ) }
*
* For non-inverting configuration
*Gt2 N1  0  VALUE={ABS(TANH(V(INN,AGND)/0.65)/4.45)}
*Gt2 N1  0  VALUE={-0.0671 + 0.4629*ABS(V(INN,AGND)) + -0.2433*V(INN,AGND)^2  
*+ 0.0425*ABS(V(INN,AGND))^3}
*Gt2 N1  0  VALUE={ 0.1816 + 0.0465*ABS(V(INN,AGND)) }


*Gt2 N1  0  VALUE={ 0.11 + 0.0465*ABS(V(INN,AGND)) }
*
Rt1 N1  N2 1k
Vse N2  0  DC 0V
*
*G1 IOUTP IOUTN VALUE={LIMIT(Gain*V(VCP,VCN),abs(1*I(Vse)),-abs(1.1*I(Vse)))}
G1 IOUTP IOUTN VALUE={LIMIT(Gain*V(VCP,VCN),Idefault,-Idefault)}
.ENDS Dyn_SR
*$
.TRAN 2e-008 1u 0 
.TEMP 27
.PLOT TRAN V(IN)
;$SpiceType=AMBIGUOUS
